US07192982B2
4-Benzyloxyphenyl-2-(4-chlorophenoxy)propanoic acid methyl ester
A solution of triphenylphosphin(0.1 g, 0.38 mmol) in 5 ml of dry THF was treated at 0° C. with DEAD (0.066 g, 0.38 mmol) and stirred over 30 min. Then a solution of 4-Benzyloxyphenyl-2-hydroxypropanoic acid methyl ester (0.1 g, 0.35 mmol) and p-chlorophenol (0.048 g, 0.38 mmol) in 2 ml of THF was added to the solution and the mixture reaction was stirred at room temperature overnight. The mixture was concentrated to dryness and chromatographed in silicagel (hexanes/Ethyl acetate 3:1) to give 0.082 g of product (60%). 1H-NMR (200.15 MHz, CDCl3): δ 7.46–7.31 (m, 5H), 7.28–7.13 (m, 4H), 6.93 (d, 2H, J=8.8), 6.75 (d, 2H, J=8.8), 5.04 (s, 2H), 4.73(t, 1H, J=6.1), 3.71 s (s, 3H), 3.18 (d, 2H, J=6.4).

reactant | triphenylphosphin | 0.38 mmol, 0.1 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DEAD | 0.38 mmol, 0.066 g | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
reactant | 4-Benzyloxyphenyl-2-hydroxypropanoic acid methyl ester | 0.35 mmol, 0.1 g | COC(C(C)(O)C1=CC=C(C=C1)OCC1=CC=CC=C1)=O | C17H18O4
reactant | p-chlorophenol | 0.38 mmol, 0.048 g | ClC1=CC=C(C=C1)O | C6H5ClO
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | THF | 2 ml | C1CCOC1 | C4H8O
product | 4-Benzyloxyphenyl-2-(4-chlorophenoxy)propanoic acid methyl ester | 0.082 g, 60% | COC(C(C)(OC1=CC=C(C=C1)Cl)C1=CC=C(C=C1)OCC1=CC=CC=C1)=O | C23H21ClO4
